* FILENAME:        NE46134.CIR
* NEC PART NUMBER: NE46134
* LAST MODIFIED:   11/97
* BIAS CONDITIONS: Vce=5V, to 12.5V,  Ic=50mA to 100mA
* FREQ RANGE:      0.1GHz TO 2.5GHz
*                            CCBpkg
*                    .-------||--------.  
*                    |          CCB    |   
*                    |      .--||---.  |          COLLECTOR
* BASE               |      |        | |             
*             __Tb_  |      |   /----o-o-------o----o
*  o---------|_____|-o-LB---o--|Q1   |         |  
*                    |      B   \   --         |  
*                   --          |   -- CCE     --  
*                   -- CBEpkg E o----'         --CCEpkg
*                    |          |              | 
*                    |         LE              |  
*                    `----------o--------------'  
*                               |                  
*                               -                  
*                              | |  Te             
*                              | |                 
*                               -                  
*                               |
*                               o EMITTER
*                    
*
*       CCB   = 0.03 pF       LB  = 1.2nH          Tb/Te:   
*       CCE   = 0.5 pF        LE  = 1.2nH          z=60 ohms
*       CCBpkg= 0.18pF                             l=50 mils
*       CCEpkg= 0.18pF                             a=0.0001
*       CBEpkg= 0.01pF                             f=0.9GHz
*
*                   c b e
.SUBCKT NE46134/CEL 2 1 3 
Q1 2 6 7 NE46100
CCB 6 2  0.03E-12
CCE 2 7  0.5E-12
LB  4 6  1.2E-9
LE  7 5  1.2E-9
TB 1 0 4 0 Z0=60 TD=9.63E-12
TE 5 0 3 0 Z0=60 TD=9.63E-12
CCBPKG 4 2 0.18E-12
CCEPKG 2 5 0.18E-12
CBEPKG 4 5 0.01E-12
.MODEL NE46100 NPN
+( IS=8.7e-16    BF=185.0         NF=0.959       VAF=30.0         IKF=0.20
+ ISE=5.70e-13   NE=1.80          BR=5.0         NR=1.0           VAR=12.4  
+ IKR=0.018      ISC=1.0e-14      NC=1.95        RE=0.630         RB=6.0
+ RBM=4.0        IRB=0.004        RC=3.0         CJE=4.9e-12      VJE=0.60
+ MJE=0.450      CJC=2.50e-12     VJC=0.830      MJC=0.330        XCJC=0.20
+ CJS=0.0        VJS=0.750        MJS=0.0        FC=0.50          TF=12.9e-12 
+ XTF=1.60       VTF=19.9         ITF=0.40       PTF=0.0          TR=1.70e-8 
+ EG=1.11        XTB=0.0          XTI=3.0        KF=0.0           AF=1.0 )
.ENDS
*$
