* FILENAME:        NE68000.CIR
* NEC PART NUMBER: NE68000
* LAST MODIFIED:   5/96
* BIAS CONDITIONS: Vce=1V to 6V, Ic=0.25mA to 20mA
* FREQ RANGE:      0.1GHZ to 20.1GHZ
*
*                CCB
*            .---||---.            CCB=0.08pF
*            |        |C           CCE=0.08pF
*            |   /----o---LC----o  
*  o----LB---o--|     |            LB=0.302nH (QTY 1-11.7mil)
*            B   \   --            LC=0.113nH (QTY 1- 7.8mil)
*                |   -- CCE        LE=0.183nH (QTY 2-17.7mil)
*              E o----'            Bond wire: 0.7mil 
*                |                            diameter gold
*               LE
*                |
*                o
*
*                   c b e
.SUBCKT NE68000/CEL 2 1 3
Q1  5 4 6 NE68000
CCB 4 5 0.08E-12
CCE 5 6 0.08E-12
LE  6 3 0.183E-9
LB  1 4 0.302E-9
LC  5 2 0.113E-9
.MODEL NE68000 NPN 
+(IS=3.84e-16    BF=124.9         NF=1.04        VAF=11.9         IKF=0.027
+ ISE=1.0e-14    NE=2.17          BR=1.0         NR=1.05          VAR=0.0
+ IKR=0.0        ISC=0.0          NC=2.0         RE=0.6           RB=17.9  
+ RBM=1.02       IRB=4.01e-4      RC=10.46       CJE=0.358e-12    VJE=0.711
+ MJE=0.5        CJC=0.162e-12    VJC=0.791      MJC=0.638        XCJC=0.0
+ CJS=0.0        VJS=0.750        MJS=0.0        FC=0.50          TF=8.7e-12    
+ XTF=18.0       VTF=19.1         ITF=.0818      PTF=0.0          TR=0.635e-9
+ EG=1.11        XTB=0.0          XTI=3.0        KF=0.0           AF=1.0 )
*
* NOTE:  CEL develops models using the Libra simulator.
*        For this simulator, a value of 0 for VAR and
*        IKR is interpreted as infinity.
.ENDS
*$

