* FILENAME:         NE68018.CIR
* NEC PART NUMBER:  NE68018
* LAST MODIFIED:    5/96
* BIAS CONDITIONS:  Vce=1V to 6V, Ic=1mA to 15mA
* FREQ RANGE:       0.1GHz to 5GHz
*
*                            CCBpkg
*                   ,--------||-----------.
*                   |                     |
*                   |        CCB          |
*                   |    .---||---.       |
*  BASE             |    |        |       |         COLLECTOR
*                   |    |   /----o--LC---o--------Lcx------o
*  o-------Lbx------o-LB-o--|Q1   |       |
*                   |    B   \   --       |
*                   |        |   -- CCE  --
*            CBEpkg--      E o----'      -- CCEpkg  
*                  --        |            |
*                   |       LE            |
*                   '--------o------------'
*                            |
*                           Lex               
*                            | 
*                            o EMITTER
*          
*       CCB    = 0.08pF           LB  = 1.38nH
*       CCE    = 0.08pF           LE  = 0.85nH
*                                 LC  = 2.55nH
*       CCBpkg = 0.14pF           Lbx = 0.18nH
*       CCEpkg = 0.58pF           Lcx = 0.47nH
*       CBEpkg = 0.29pF           Lex = 0.09nH
*
* Q1 model parameters are as follows:
*                   c b e
.SUBCKT NE68018/CEL 2 1 3
Q1  8 7 9 NE68000
CCB 7 8 0.08E-12
CCE 8 9 0.08E-12
LE  9 6 0.85E-9
LB  4 7 1.38E-9
LC  8 5 2.55E-9
CBEPKG 4 6 0.29E-12
CCBPKG 4 5 0.14E-12
CCEPKG 5 6 0.58E-12
LBX 1 4 0.18E-9
LCX 5 2 0.47E-9
LEX 6 3 0.09E-9
.MODEL NE68000 NPN 
+(IS=3.84e-16    BF=124.9         NF=1.04        VAF=11.9         IKF=0.027
+ ISE=1.0e-14    NE=2.17          BR=1.0         NR=1.05          VAR=0.0
+ IKR=0.0        ISC=0.0          NC=2.0         RE=0.6           RB=17.9  
+ RBM=1.02       IRB=4.01e-4      RC=10.46       CJE=0.358e-12    VJE=0.711
+ MJE=0.5        CJC=0.162e-12    VJC=0.791      MJC=0.638        XCJC=0.0
+ CJS=0.0        VJS=0.750        MJS=0.0        FC=0.50          TF=8.7e-12    
+ XTF=18.0       VTF=19.1         ITF=.0818      PTF=0.0          TR=0.635e-9
+ EG=1.11        XTB=0.0          XTI=3.0        KF=0.0           AF=1.0 )
*
* NOTE:  CEL develops models using the Libra simulator.  For this simulator,
*        a value of 0 for VAR and IKR is interpreted as infinity.
.ENDS
*$

