* FILENAME:        NE68019.CIR
* NEC PART NUMBER: NE68019
* LAST MODIFIED:   5/96
* BIAS CONDITIONS: Vce=1V to 6V, Ic=1mA to 15mA
* FREQ RANGE:      0.05GHz to 3GHz
*
*                            CCBpkg
*                   ,--------||-----------.
*                   |                     |
*                   |        CCB          |
*                   |    .---||---.       |
*  BASE             |    |        |       |   COLLECTOR
*                   |    |   /----o-------o--Lcx------o
*  o-------Lbx------o-LB-o--|Q1   |       |
*                        B   \   --       |
*                            |   -- CCE  --
*                          E o----'      -- CCEpkg
*                            |            |
*                           LE            |
*                            o------------'
*                            |
*                           Lex
*                            | 
*                            o EMITTER
*
*       CCB    = 0.08pF           LB  = 0.72nH
*       CCE    = 0.08pF           LE  = 0.76nH
*       CCBpkg = 0.17pF           Lbx = 0.19nH
*       CCEpkg = 0.21pF           Lcx = 0.19nH
*                                 Lex = 0.19nH
*
*                   c b e
.SUBCKT NE68019/CEL 2 1 3
Q1  5 7 8 NE68000
CCB 7 5 0.08E-12
CCE 5 8 0.08E-12
LE  8 6 0.76E-9
LB  4 7 0.72E-9
CCBPKG 4 5 0.17E-12
CCEPKG 5 6 0.21E-12
LBX 1 4 0.19E-9
LCX 5 2 0.19E-9
LEX 6 3 0.19E-9
.MODEL NE68000 NPN 
+( IS=3.84e-16   BF=124.9         NF=1.05        VAF=11.87        IKF=0.027 
+ ISE=1.0e-14    NE=2.17          BR=1.0         NR=1.05          VAR=0.0 
+ IKR=0.0        ISC=0.0          NC=2.0         RE=0.60          RB=17.9  
+ RBM=1.02       IRB=4.01e-4      RC=10.5        CJE=0.358e-12    VJE=0.711 
+ MJE=0.50       CJC=0.162e-12    VJC=0.791      MJC=0.638        XCJC=0.0 
+ CJS=0.0        VJS=0.750        MJS=0.0        FC=0.50          TF=8.70e-12         
+ XTF=18.0       VTF=19.1         ITF=0.082      PTF=0.0          TR=0.635e-9                
+ EG=1.11        XTB=0.0          XTI=3.0        KF=0.0           AF=1.0 )
*
* NOTE:  CEL develops models using the Libra simulator.
*        For this simulator, a value of 0 for VAR and
*        IKR is interpreted as infinity.
.ENDS
*$

