* FILENAME:        NE33200.CIR
* NEC PART NUMBER: NE33200
* LAST MODIFIED:   10/98
* BIAS CONDITIONS: Vds=2V,  Id=10mA to 20mA
* FREQ RANGE:      0.1GHz to 10GHZ
*
*
* STATZ GaAsFET Model
*
*               ---o--Rdx--Ld---o
*               |  |             DRAIN
*GATE       I --   RDB         
*  o---Lg---I Q1   |     
*           I---   CBS    
*               |__|
*               |
*               Rsx
*               |          
*               Ls
*               |
*               o SOURCE
*
*       Lg=0.17nH       RDB=270 ohms
*       Ls=0.03nH       CBS=10,000pF
*       Ld=0.08nH       Rdx=5 ohms
*                       Rsx=1 ohms
*
*                    d g s
.SUBCKT NE33200/CEL 2 1 3
Z1   7  4  8 NE33200
RDB  7  9  270
CBS  9  8  10000E-12
Rsx  8  6  1
Rdx  7  5  5
Lg   4  1  0.17E-9
Ld   2  5  0.08E-9
Ls   6  3  0.03E-9
.MODEL NE33200 NMF (LEVEL=2
+ BETA=0.0989   VTO=-0.6         ALPHA=8           LAMBDA=0.2
+ B=0           TAU=4e-12        IS=8e-14          N=1
+ VBI=1         FC=0.5           RD=0              RS=0
+ RG=0          M=0              CDS=0.16e-12      CGS=0.4e-12
+ CGD=0.05e-12  VDELTA=0.5       VMAX=0.5          EG=1.43        
+ KF=0          AF=1             XTI=3             VTOTC=0 
+ BETATCE=0) 
.ENDS
*$

